US07348332B2
b) 4-Methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide
Methyl iodide (0.43 ml, 6.94 mmol) was added to a solution of 4-methyl-3,4-dihydro-1H-quinazoline-2-thione (410 mg, 2.30 mmol) in acetone (5 ml). The mixture was stirred for 15 min (r.t.), and the title compound (500 mg, 67%) was isolated from the reaction mixture by filtration.

reactant | Methyl iodide | 6.94 mmol, 0.43 ml | CI | CH3I
reactant | 4-methyl-3,4-dihydro-1H-quinazoline-2-thione | 2.30 mmol, 410 mg | CC1NC(NC2=CC=CC=C12)=S | C9H10N2S
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 4-Methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide | 500 mg, 67% | I.CC1NC(=NC2=CC=CC=C12)SC | InChI=1S/C10H12N2S.HI/c1-7-8-5-3-4-6-9(8)12-10(11-7)13-2;/h3-7H,1-2H3,(H,11,12);1H
